US05616586
To a solution of 2-hydroxymethyltetrahydroquinoline (10 g, 61 mmol), imidazole (10.0 g, 147 mmol), and triphenylphosphine (19.0 g, 72.4 mmol) in a mixed solvent of 5:1 toluene/acetonitrile (360 mL) was added iodine (16.85 g, 66.4 mmol) at 0° C. The mixture was stirred for 2 h at 0° C. and aqueous sodium thiosulfate was added. The organic layer was separated, washed with water and brine, dried over magnesium sulfate, and concentrated. The residue was triturated with diethyl ether and insoluble materials were removed by filtration. The filtrate was concentrated and the residue was dissolved in DMF (60 mL) and potassium phthalimide (13.6 g, 73.48 mmol) was added. The mixture was heated at 60° C. for 2 h and diluted with water (200 mL). The mixture was extracted with 1:1 toluene/ethyl acetate (200 mL×2). The organic layers were washed with brine, dried over magnesium sulfate, and concentrated. The residue was purified with silica gel column chromatography with 10:1 to 6:1 hexane/ethyl acetate to give 10.25 g of 2-Phthalimidomethyltetrahydroquinoline (75%): 1H NMR (270 MHz, CDCl3) δ7.86 (m, 2H), 7.74 (m, 2H), 6.95 (m, 2H), 6.59 (t, 1H, J=8 Hz), 6.49 (d, 1H, J=8 Hz), 3.91 (dd, 1H, J=14, 5 Hz), 3.78 (dd, 1H, J=14, 5 Hz), 3.68 (m, 1H), 2.78 (m, 2H), 2.00 (m, 1H), 1.69 (m, 1H).

reactant | 2-hydroxymethyltetrahydroquinoline | 61 mmol, 10 g | OCC1NC2=CC=CC=C2CC1 | C10H13NO
reactant | imidazole | 147 mmol, 10.0 g | N1C=NC=C1 | C3H4N2
reactant | triphenylphosphine | 72.4 mmol, 19.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 66.4 mmol, 16.85 g | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | potassium phthalimide | 73.48 mmol, 13.6 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | water | 200 mL | O | H2O
solvent | toluene acetonitrile | 360 mL | C1(=CC=CC=C1)C.C(C)#N
product | 2-Phthalimidomethyltetrahydroquinoline | 10.25 g, 75% | C1(C=2C(C(N1CC1NC3=CC=CC=C3CC1)=O)=CC=CC2)=O | C18H16N2O2
